US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6-fluoro-7-(3-hydroxyazetidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 270 mg of N,N-dimethylformamide were added 110 mg of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, 50 mg of 3-hydroxyazetidine hydrochloride, and 100 mg of N-methylpyrrolidine together with 3 drops of ethanol, and the mixture was stirred at 85° C. for 25 minutes. After adding 0.5 ml of ethanol, the solution was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 101 mg of the title compound as a pale yellow powder.

reactant | N,N-dimethylformamide | 270 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 110 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)F)F)=O)C(=O)O)F)F | C15H6BrF4N3O3
reactant | 3-hydroxyazetidine hydrochloride | 50 mg | Cl.OC1CNC1
reactant | N-methylpyrrolidine | 100 mg | CN1CCCC1 | C5H11N
catalyst | ethanol | 3 drops | C(C)O | C2H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6-fluoro-7-(3-hydroxyazetidin-1-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 101 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)N1CC(C1)O)F)=O)C(=O)O)F)F | C18H12BrF3N4O4
